US08859814B2
methyl 1-{4-(2-chlorophenyl)-2-[(1H-indol-4-ylsulfonyl)amino]butanoyl}piperidine-4-carboxylate is prepared from 4-(2-chlorophenyl)-2-[(1H-indol-4-ylsulfonyl)amino]butanoic acid and methyl piperidine-4-carboxylate in same manner Example 106 is synthesized. ESI MS Calc. 517.1; Found: 518.5 (M+H)+.

reactant | 4-(2-chlorophenyl)-2-[(1H-indol-4-ylsulfonyl)amino]butanoic acid | ClC1=C(C=CC=C1)CCC(C(=O)O)NS(=O)(=O)C1=C2C=CNC2=CC=C1 | C18H17ClN2O4S
reactant | methyl piperidine-4-carboxylate | N1CCC(CC1)C(=O)OC | C7H13NO2
product | methyl 1-{4-(2-chlorophenyl)-2-[(1H-indol-4-ylsulfonyl)amino]butanoyl}piperidine-4-carboxylate | ClC1=C(C=CC=C1)CCC(C(=O)N1CCC(CC1)C(=O)OC)NS(=O)(=O)C1=C2C=CNC2=CC=C1 | C25H28ClN3O5S
